* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000010285017467
Fd1_1 0 s1 V1 1.0000005142508734
Gr1_1_1 0 s1 x1_a1 0 -2272272578936413.5
Gr2_re_1_1 0 s1 x2_re_a1 0 -1.1049968125028994e+16
Gr2_im_1_1 0 s1 x2_im_a1 0 9845002203375084.0
Gr3_1_1 0 s1 x3_a1 0 -1.6583706944414323e+17
Gr4_re_1_1 0 s1 x4_re_a1 0 2.610829044077491e+18
Gr4_im_1_1 0 s1 x4_im_a1 0 1.3058987488770118e+17
Gr5_re_1_1 0 s1 x5_re_a1 0 -1.3435971836189565e+18
Gr5_im_1_1 0 s1 x5_im_a1 0 5.536927687970466e+16
Gr6_re_1_1 0 s1 x6_re_a1 0 -3.1201643952347873e+18
Gr6_im_1_1 0 s1 x6_im_a1 0 1.8686094731691744e+16
Gr7_re_1_1 0 s1 x7_re_a1 0 -5.686378757508902e+17
Gr7_im_1_1 0 s1 x7_im_a1 0 -288830777488506.0
Gr8_re_1_1 0 s1 x8_re_a1 0 3.423848441787946e+17
Gr8_im_1_1 0 s1 x8_im_a1 0 -1.0624149477307524e+16
Gr9_re_1_1 0 s1 x9_re_a1 0 7.328099848304151e+17
Gr9_im_1_1 0 s1 x9_im_a1 0 -1.1416328148483364e+16
Gr10_re_1_1 0 s1 x10_re_a1 0 1.0250476584822115e+17
Gr10_im_1_1 0 s1 x10_im_a1 0 -6890916049507789.0
Gr11_re_1_1 0 s1 x11_re_a1 0 1.3389753135264192e+18
Gr11_im_1_1 0 s1 x11_im_a1 0 -8927345151523844.0
Gd1_2 0 s1 p2 0 1.6950575702069493e-08
Fd1_2 0 s1 V2 8.475287851034747e-07
Gr1_1_2 0 s1 x1_a2 0 -2152527737063.8523
Gr2_re_1_2 0 s1 x2_re_a2 0 -12349807227341.09
Gr2_im_1_2 0 s1 x2_im_a2 0 6949773157332.1875
Gr3_1_2 0 s1 x3_a2 0 -105391020223776.58
Gr4_re_1_2 0 s1 x4_re_a2 0 1879334983942030.5
Gr4_im_1_2 0 s1 x4_im_a2 0 97812995609872.31
Gr5_re_1_2 0 s1 x5_re_a2 0 -977634556048510.4
Gr5_im_1_2 0 s1 x5_im_a2 0 41912521923242.805
Gr6_re_1_2 0 s1 x6_re_a2 0 -2279259325064859.0
Gr6_im_1_2 0 s1 x6_im_a2 0 14532760120910.027
Gr7_re_1_2 0 s1 x7_re_a2 0 -407234232751187.6
Gr7_im_1_2 0 s1 x7_im_a2 0 281902425925.40094
Gr8_re_1_2 0 s1 x8_re_a2 0 252732163609586.03
Gr8_im_1_2 0 s1 x8_im_a2 0 -7596080757975.918
Gr9_re_1_2 0 s1 x9_re_a2 0 540008598487685.75
Gr9_im_1_2 0 s1 x9_im_a2 0 -8319404271237.516
Gr10_re_1_2 0 s1 x10_re_a2 0 75596165129589.67
Gr10_im_1_2 0 s1 x10_im_a2 0 -5078080196076.1875
Gr11_re_1_2 0 s1 x11_re_a2 0 982577783761298.4
Gr11_im_1_2 0 s1 x11_im_a2 0 -6560221432192.47
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341815287890286e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770600449429634e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795470268.2269
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795470268.2269
Rp2_im_im_a1 0 x2_im_a1 5.770600449429634e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.2485362896838699e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.0362301891151126e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 53098292828.099396
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -53098292828.099396
Rp4_im_im_a1 0 x4_im_a1 1.0362301891151126e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 7.259287263794318e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 46132327174.75278
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -46132327174.75278
Rp5_im_im_a1 0 x5_im_a1 7.259287263794318e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 9.514874655182561e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 40177672783.239044
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -40177672783.239044
Rp6_im_im_a1 0 x6_im_a1 9.514874655182561e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 7.905952343391911e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 34519754175.94185
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -34519754175.94185
Rp7_im_im_a1 0 x7_im_a1 7.905952343391911e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 2.030381539594234e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 26994954349.411457
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -26994954349.411457
Rp8_im_im_a1 0 x8_im_a1 2.030381539594234e-09
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.0553985120878505e-09
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 20596609395.87499
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -20596609395.87499
Rp9_im_im_a1 0 x9_im_a1 1.0553985120878505e-09
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 8.127690794273558e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 10468824336.212542
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -10468824336.212542
Rp10_im_im_a1 0 x10_im_a1 8.127690794273558e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 2.586595943292852e-09
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 14106707566.231365
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -14106707566.231365
Rp11_im_im_a1 0 x11_im_a1 2.586595943292852e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 1.6950575702069493e-08
Fd2_1 0 s2 V1 8.475287851034747e-07
Gr1_2_1 0 s2 x1_a1 0 -2152526058971.6548
Gr2_re_2_1 0 s2 x2_re_a1 0 -12349787972959.533
Gr2_im_2_1 0 s2 x2_im_a1 0 6949784643287.42
Gr3_2_1 0 s2 x3_a1 0 -105391303865751.92
Gr4_re_2_1 0 s2 x4_re_a1 0 1879337862072071.0
Gr4_im_2_1 0 s2 x4_im_a1 0 97813112045163.1
Gr5_re_2_1 0 s2 x5_re_a1 0 -977635961215090.2
Gr5_im_2_1 0 s2 x5_im_a1 0 41912568112024.24
Gr6_re_2_1 0 s2 x6_re_a1 0 -2279262523949699.0
Gr6_im_2_1 0 s2 x6_im_a1 0 14532772907369.924
Gr7_re_2_1 0 s2 x7_re_a1 0 -407234874605101.75
Gr7_im_2_1 0 s2 x7_im_a1 0 281898571423.5398
Gr8_re_2_1 0 s2 x8_re_a1 0 252732495364421.28
Gr8_im_2_1 0 s2 x8_im_a1 0 -7596092840948.123
Gr9_re_2_1 0 s2 x9_re_a1 0 540009315862397.94
Gr9_im_2_1 0 s2 x9_im_a1 0 -8319416122462.197
Gr10_re_2_1 0 s2 x10_re_a1 0 75596265049643.0
Gr10_im_2_1 0 s2 x10_im_a1 0 -5078086941983.429
Gr11_re_2_1 0 s2 x11_re_a1 0 982579124214550.5
Gr11_im_2_1 0 s2 x11_im_a1 0 -6560230305525.174
Gd2_2 0 s2 p2 0 0.02000003128631637
Fd2_2 0 s2 V2 1.0000015643158187
Gr1_2_2 0 s2 x1_a2 0 -4514404836492509.0
Gr2_re_2_2 0 s2 x2_re_a2 0 -3.67320075249919e+16
Gr2_im_2_2 0 s2 x2_im_a2 0 -5402505384683214.0
Gr3_2_2 0 s2 x3_a2 0 2.1087593491119107e+17
Gr4_re_2_2 0 s2 x4_re_a2 0 -1.2070600318841572e+18
Gr4_im_2_2 0 s2 x4_im_a2 0 -2.373468338752063e+16
Gr5_re_2_2 0 s2 x5_re_a2 0 5.199953145262528e+17
Gr5_im_2_2 0 s2 x5_im_a2 0 -5831590005903513.0
Gr6_re_2_2 0 s2 x6_re_a2 0 1.1220542698441728e+18
Gr6_im_2_2 0 s2 x6_im_a2 0 1761033177466965.2
Gr7_re_2_2 0 s2 x7_re_a2 0 2.8285716368964653e+17
Gr7_im_2_2 0 s2 x7_im_a2 0 4840659612649912.0
Gr8_re_2_2 0 s2 x8_re_a2 0 -9.744297511555936e+16
Gr8_im_2_2 0 s2 x8_im_a2 0 5405818452126848.0
Gr9_re_2_2 0 s2 x9_re_a2 0 -2.183679191998544e+17
Gr9_im_2_2 0 s2 x9_im_a2 0 4301108950594207.5
Gr10_re_2_2 0 s2 x10_re_a2 0 -2.9979441505625972e+16
Gr10_im_2_2 0 s2 x10_im_a2 0 2053708436973506.2
Gr11_re_2_2 0 s2 x11_re_a2 0 -4.385052087203951e+17
Gr11_im_2_2 0 s2 x11_im_a2 0 2838796047523396.0
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341815287890286e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770600449429634e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795470268.2269
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795470268.2269
Rp2_im_im_a2 0 x2_im_a2 5.770600449429634e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.2485362896838699e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.0362301891151126e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 53098292828.099396
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -53098292828.099396
Rp4_im_im_a2 0 x4_im_a2 1.0362301891151126e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 7.259287263794318e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 46132327174.75278
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -46132327174.75278
Rp5_im_im_a2 0 x5_im_a2 7.259287263794318e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 9.514874655182561e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 40177672783.239044
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -40177672783.239044
Rp6_im_im_a2 0 x6_im_a2 9.514874655182561e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 7.905952343391911e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 34519754175.94185
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -34519754175.94185
Rp7_im_im_a2 0 x7_im_a2 7.905952343391911e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 2.030381539594234e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 26994954349.411457
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -26994954349.411457
Rp8_im_im_a2 0 x8_im_a2 2.030381539594234e-09
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.0553985120878505e-09
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 20596609395.87499
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -20596609395.87499
Rp9_im_im_a2 0 x9_im_a2 1.0553985120878505e-09
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 8.127690794273558e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 10468824336.212542
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -10468824336.212542
Rp10_im_im_a2 0 x10_im_a2 8.127690794273558e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 2.586595943292852e-09
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 14106707566.231365
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -14106707566.231365
Rp11_im_im_a2 0 x11_im_a2 2.586595943292852e-09
.ENDS s_equivalent
